US07737149B2
N-[5-[2-(3,5-Dimethoxyphenyl)ethyl]-1H-pyrazol-3-yl]-4-(dimethylaminomethyl)benzamide
Oxalyl chloride (61 μl, 0.69 mmol, 1.1 eq) was added dropwise to 4-(dimethylaminomethyl)benzoic acid (113 mg, 0.63 mmol, 1 eq) in DCM (2.5 ml) containing 1 drop of DMF. After stirring at ambient temperature for 1.5 h, a solution of tert-butyl 5-amino-3-[2-(3,5-dimethoxyphenyl)ethyl]pyrazole-1-carboxylate (196 mg, 0.56 mmol, 0.9 eq) and pyridine (137 μL, 1.69 mmol, 2.70 eq) in DCM (2 ml) was added to the reaction mixture and stirring was continued at ambient temperature for a further 2 h. A solution of TFA (384 μL, 5.16 mmol, 8.25 eq) in DCM (3.5 ml) was then added and stirring was continued at ambient temperature for 18 h. The reaction mixture was concentrated and the crude product was purified by reverse-phase prep. HPLC (basic) using a gradient of acetonitrile in water containing 1% ammonium hydroxide solution. The clean fractions were taken and evaporated to afford the title compound as a colourless solid (65 mg, 25% yield).; 1H NMR (399.902 MHz, DMSO) δ 2.09 (6H, s), 2.81 (4H, s), 3.38 (2H, s), 3.65 (6H, s), 6.26-6.25 (1H, m), 6.35 (2H, d), 6.40 (1H, s), 7.31 (2H, d), 7.87 (2H, d), 10.51 (1H, br.s), 12.07 (1H, br.s). MS: m/z 409 (MH+)

reactant | Oxalyl chloride | 0.69 mmol, 61 μl, 1.1 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-(dimethylaminomethyl)benzoic acid | 0.63 mmol, 113 mg, 1 eq | CN(C)CC1=CC=C(C(=O)O)C=C1 | C10H13NO2
reactant | tert-butyl 5-amino-3-[2-(3,5-dimethoxyphenyl)ethyl]pyrazole-1-carboxylate | 0.56 mmol, 196 mg, 0.9 eq | NC1=CC(=NN1C(=O)OC(C)(C)C)CCC1=CC(=CC(=C1)OC)OC | C18H25N3O4
reactant | pyridine | 1.69 mmol, 137 μL, 2.70 eq | N1=CC=CC=C1 | C5H5N
reactant | TFA | 5.16 mmol, 384 μL, 8.25 eq | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 2.5 ml | C(Cl)Cl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 3.5 ml | C(Cl)Cl | CH2Cl2
product | N-[5-[2-(3,5-Dimethoxyphenyl)ethyl]-1H-pyrazol-3-yl]-4-(dimethylaminomethyl)benzamide | 65 mg, 25% yield | COC=1C=C(C=C(C1)OC)CCC1=CC(=NN1)NC(C1=CC=C(C=C1)CN(C)C)=O | C23H28N4O3
